Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
right hand weakness
 
Major Surgical or Invasive Procedure:
tPA Administration ___

 
History of Present Illness:
HPI: 

___ F w/ PMH HTN, T2DM presents with R arm weakness

She was in her USOH this morning, she woke up around 830 feeling
normal. She went to bathroom brushed her teeth. When she went to
pick up a plate around ___ she noticed her her was flopping
around like a flounder. It felt weak, there was some numbness in
the R hand as well. When she tried to hold it up it would flop
down. SHe went to OSH where she received tPA NIHSS was 4 there.
She states that she started feeling better after tPA. She
currently feels at 80% of her normal strength. There is no
numbness anymore. SHe notes that she fractured her R ankle
recently. She states she noticed she couldn't grasp things, 
raise
hand, make a fist. She does not recall if she was able to move
the arm at the shoulder. No unusual symptoms in the last week.
Reports some stress, though at baseline levels. She notes she
fractured R ankle ___ after someone fell on her. He brother
passed away in ___ after traumatic brain bleed

ROS: 

On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the patient denies recent fever,
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations.
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain. Denies dysuria, or recent change in bowel or bladder
habits. Denies arthralgias, myalgias, or rash.
 
Past Medical History:
HTN 
? DM 
 
Social History:
___
Family History:
Father with stroke
brother with stroke (hemorrhagic), passed away
sister with leukemia (___)
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
PHYSICAL EXAMINATION: 

Vitals: T97.5 HR 106 BP 183/82 RR 18 SpO2 98% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects. Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect. 

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. R pronation. No
adventitious movements, such as tremor or asterixis noted.
 [___]
L 5      5     5   5    5    ___     5    5   5    5
R 4      5     4   4+   5    ___     5    5   5    5 

-Sensory: No deficits to light touch, pinprick, temperature,
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. no agraphesthesia

-Reflexes:

 [Bic] [Tri] [___] [Pat] [Ach]
L 2      2      2     2      1
R 2      2      2     2      1 

Plantar response was flexor bilaterally. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. FNF off on R arm slightly.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. 

DISCHARGE EXAM
===============

PHYSICAL EXAMINATION: 
AF, HR ___ SR, BP 130s/60s 

General: Awake, cooperative, NAD.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Extremities: No ___ edema. Warm, well perfused. 

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. language is fluent. 

-Cranial Nerves:
PERRL 3 to 2mm and brisk. EOMI without nystagmus. Normal
saccades. 
No facial droop, facial musculature symmetric.
Palate elevates symmetrically.
Tongue protrudes in midline with good excursions. Strength full
with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. Subtle R pronation. No
adventitious movements, such as tremor or asterixis noted.
Decreased rapid movements of right compared to left. 
 [Delt][Bic][Tri] [WEx][FEx][IO][IP][Quad][Ham][TA][Gas]
L 5      5      5        5        5    5     5     5           5 
        5   5    
R 4      5     4+      5        5-    4+   5   5            5    
     5   5     

-Sensory: No deficits to light touch, pinprick, temperature,
vibration, or proprioception throughout. No extinction to DSS.

-Reflexes:
See previous examinations 

-Coordination: Finger  tap slightly slower on R compared to left 


-Gait: Did not ambulate 
 
Pertinent Results:
ADMISSION LABS 
===============
___ 01:10PM BLOOD WBC-7.4 RBC-3.83* Hgb-13.0 Hct-39.4 
MCV-103* MCH-33.9* MCHC-33.0 RDW-13.7 RDWSD-52.1* Plt ___
___ 01:10PM BLOOD Glucose-98 UreaN-10 Creat-0.7 Na-138 
K-8.7* Cl-107 HCO3-23 AnGap-8*
___ 01:10PM BLOOD ALT-<5 AST-100* AlkPhos-46 TotBili-0.4

INTERVAL LABS 
=============
___ 07:07AM BLOOD calTIBC-332 VitB12-1167* Folate->20 
Ferritn-36 TRF-255
___ 12:46AM BLOOD %HbA1c-4.8 eAG-91
___ 12:46AM BLOOD Triglyc-139 HDL-57 CHOL/HD-2.2 LDLcalc-42
___ 12:46AM BLOOD TSH-2.3
___ 07:07AM BLOOD CRP-0.6

IMAGING 
========
MRI 
Multiple small regions of acute infarct in the left pre and 
postcentral gyri, as well as in the left occipital lobe. 2. 
Nonspecific white matter signal changes most likely reflecting 
chronic small vessel ischemia in this age group.

TTE
The left atrial volume index is moderately increased. There is 
no evidence for an atrial septal defect by 2D/ color Doppler. 
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional left ventricular systolic 
function. Overall left
ventricular systolic function is hyperdynamic. Quantitative 
biplane left ventricular ejection fraction is 82 % (normal 
54-73%). Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is a mid cavitary gradient (peak 9 mmHg). No 
ventricular septal defect is seen. Tissue Doppler suggests an 
increased left
ventricular filling pressure (PCWP greater than 18 mmHg). Normal 
right ventricular cavity size with normal free wall motion. 
Tricuspid annular plane systolic excursion (TAPSE) is normal. 
The aortic sinus diameter is
normal for gender with a normal ascending aorta diameter for 
gender. The aortic arch diameter is normal with a normal 
descending aorta diameter. There is no evidence for an aortic 
arch coarctation. The aortic valve
leaflets (?#) are mildly thickened. There is no aortic valve 
stenosis. There is trace aortic regurgitation. The mitral valve 
leaflets are mildly thickened with no mitral valve prolapse. 
There is mild [1+] mitral regurgitation.
The pulmonic valve leaflets are normal. The tricuspid valve 
leaflets appear structurally normal. There is mild [1+] 
tricuspid regurgitation. There is mild pulmonary artery systolic 
hypertension. There is a small to
moderate circumferential pericardial effusion. The effusion is 
echo dense, c/w blood, inflammation or other cellular elements. 
There are no 2D or Doppler echocardiographic evidence of 
tamponade.
IMPRESSION: No definite structural cardiac source of embolism 
identified. Mild symmetric left ventricular hypertrophy with 
vigorous left ventricular systolic function. Small to moderate 
pericardial effusion (up to 1.5 cm anterior to RV and 0.6 cm 
inferolateral to LV in subcostal views) without 
echocardiographic evidence of tamponade. Mild pulmonary hyperten

 
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman w/ PMH HTN, previous hx of T2DM 
who presents with acute onset R. arm weakness in UMN pattern, 
s/p tPA ___ w/ confirmed, likely cardioembolic stroke.

Transitional Issues
====================
[ ] Carries chart diagnosis for diabetes, but A1c 4.8 this 
admission
[ ] Was discharged on ziopatch to look for evidence of 
paroxysmal afib
[ ] Enrolled in ___ trial
[ ] Pt noted to have small to moderate pericardial effusion w/o 
evidence of tamponade physiology. Should be followed up by her 
rheumatologist and PCP given hx of RA.

Ms. ___ presented initially w/ upper motor neuron pattern 
of acute hand > arm weakness, found to have hand knob infarct 
(w/ involvement of both pre and postcentral gyrus). However 
additionally has left occipital infarct suggestive of likely 
cardioembolic source. Found to have A1c of 4.8, LDL of 42. She 
has no hx atrial fibrillation, TTE without obvious source, 
though was notable for small-mod pericardial effusion. She was 
evaluated by ___ and will be discharged with a Ziopatch to 
look for paroxysmal atrial fibrillation. Additionally she was 
enrolled in the ___ trial.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (X) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (X) No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (X) Yes (LDL = 42) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[x ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Vitamin D 400 UNIT PO DAILY 
3. Cyanocobalamin 1000 mcg PO ___ 
4. Losartan Potassium 50 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 
6. TraMADol 50 mg PO BID 
7. ValACYclovir 500 mg PO Q12H 
8. Meclizine 12.5 mg PO Q8H:PRN dizziness 
9. ClonazePAM 0.5 mg PO QHS:PRN anxiety  

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  ClonazePAM 0.5 mg PO QHS:PRN anxiety   
4.  Cyanocobalamin 1000 mcg PO ___  
5.  Losartan Potassium 50 mg PO DAILY  
6.  Meclizine 12.5 mg PO Q8H:PRN dizziness  
7.  Pravastatin 20 mg PO QPM  
8.  TraMADol 50 mg PO BID  
9.  ValACYclovir 500 mg PO Q12H  
10.  Vitamin D 400 UNIT PO DAILY  
11.Outpatient Occupational Therapy
I63.9 Acute Ischemic stroke 

Mild left hand weakness, recent right ankle fracture 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___